US07799796B2
To N-[4-amino-5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidin-2-yl]-isobutyramide (386 mg, 0.82 mmol), dissolved in anhydrous tetrahydrofuran, was added triethylamine (0.13 mL, 0.90 mmol) and isobutyryl chloride (0.09 mL, 0.90 mmol). After stirring one hour, the reaction was concentrated under reduced pressure. The concentrate was dissolved in dichloromethane (50 mL), and the dichloromethane layer was washed with water, dried using anhydrous sodium sulfate, and concentrated under reduced pressure. Purification by preparatory TLC plates (98/2/0.5 dichloromethane/methanol/ammonium hydroxide) yielded 96 mg (22%) of N-[5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-4-isobutyrylamino-pyrimidin-2-yl]-isobutyramide as white solid, MS (M+H)=541.

reactant | N-[4-amino-5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidin-2-yl]-isobutyramide | 0.82 mmol, 386 mg | NC1=NC(=NC=C1OC1=C(C=C(C(=C1)I)OC)C(C)C)NC(C(C)C)=O | C18H23IN4O3
reactant | triethylamine | 0.90 mmol, 0.13 mL | C(C)N(CC)CC | C6H15N
reactant | isobutyryl chloride | 0.90 mmol, 0.09 mL | C(C(C)C)(=O)Cl | C4H7ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-[5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-4-isobutyrylamino-pyrimidin-2-yl]-isobutyramide | 96 mg, 22% | IC=1C(=CC(=C(OC=2C(=NC(=NC2)NC(C(C)C)=O)NC(C(C)C)=O)C1)C(C)C)OC | C22H29IN4O4
